US06069151
8-Methoxyquinoline-5-carboxylic acid chloride, hydrochloride
A suspension of 8-methoxyquinoline-5-carboxylic acid (5.0 g) in dichloromethane (50 ml) was cooled to 20 C. Oxalyl chloride (4.29 ml) was added cautiously and then dry dimethylformamide (8 drops) was added dropwise. The mixture was stirred at 0° C. for 1h and then at room temperature for 24h. The solvent was removed in vacuo and the residue azeotroped with a small amount of toluene. The title compound was obtained as a brown solid (5.18 g).

reactant | 8-methoxyquinoline-5-carboxylic acid | 5.0 g | COC1=CC=C(C=2C=CC=NC12)C(=O)O | C11H9NO3
reactant | Oxalyl chloride | 4.29 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | 8 drops | CN(C=O)C | C3H7NO
product | 8-Methoxyquinoline-5-carboxylic acid chloride, hydrochloride | Cl.COC1=CC=C(C=2C=CC=NC12)C(=O)Cl | InChI=1S/C11H8ClNO2.ClH/c1-15-9-5-4-8(11(12)14)7-3-2-6-13-10(7)9;/h2-6H,1H3;1H
